US04963561
1,3-Dihydro-6-[4-(methanesulfonylamino)phenyl]-5-methyl2H-imidazo[4,5-b]pyridin-2-one
Example 10 6-4-(Butanesulfonylamino)phenyl]-1,3-dihydro-5-methyl2H-imidazo[4,5-b]pyridin-2-one [I; Ar =4-CH3 (CH2)3SO2NHC6H4, R1 and R3 =H, R5 =CH3 ]was prepared from 1.5 g 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one hydrochloride and 0.91 ml butanesulfonyl chloride according to the procedure of Example 7, and was obtained (0.92 g) as a colorless solid, m.p. above 300° C. when recrystallized from ethanol.

reactant | 1,3-dihydro-5-methyl2H-imidazo[4,5-b]pyridin-2-one | CC1=CC=C2C(=N1)NC(N2)=O | C7H7N3O
reactant | 6-(4-aminophenyl)-1,3-dihydro-5-methyl-2H-imidazo[4,5-b]pyridin-2-one hydrochloride | 1.5 g | Cl.NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O
reactant | butanesulfonyl chloride | 0.91 ml | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
product | 1,3-Dihydro-6-[4-(methanesulfonylamino)phenyl]-5-methyl2H-imidazo[4,5-b]pyridin-2-one | CS(=O)(=O)NC1=CC=C(C=C1)C=1C=C2C(=NC1C)NC(N2)=O | C14H14N4O3S
